US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-fluorophenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate and 1-(2-fluorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)carbamate | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C14H15N3O3
reactant | 1-(2-fluorophenyl)piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminocarbonyl]-4-(2-fluorophenyl)piperazine | yield: 74.5% | CC=1N=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C18H22FN5O2
